data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2378,2641,[CH3:15][NH:16][C:17](=[O:18])[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N+:26]([CH3:27])[CH-:28][c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]=[CH:12][CH:13]1[O:14]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]([CH3:8])=[O:9])[CH:10]2[CH:11]3[CH:12]([CH:13]1[O:14]2)[C:19]([C:17]([NH:16][CH3:15])=[O:18])([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:26]([CH3:27])[CH:28]3[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,13.876560641604042,-46.71839006177875
4472,5104,[CH3:10][C:11](=[O:12])[N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17]#[N:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]([CH3:15])[N:13]1[C:11]([CH3:10])=[O:12],water,298.15,24.534697088032143,-10.57482451761542
1427,1569,[CH3:12][n+:13]1[c:14]([C:15]#[N:16])[o:17][c:18](=[O:19])[c-:20]1-[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Cl:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:20]1([c:21]3[cH:22][cH:23][cH:24][cH:25][cH:26]3)[N:13]([CH3:12])[C:14]2([C:15]#[N:16])[O:17][C:18]1=[O:19],water,298.15,34.467526568020055,6.4754953448888095
3052,3417,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8](=[O:9])[C:10]([C:11]#[N:12])=[NH+:13][NH-:14]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[NH:14][NH:13][C:10]1([C:8]([CH3:7])=[O:9])[C:11]#[N:12],water,298.15,23.67566898390297,-12.09731735008294
4860,5543,[CH3:10][O:11][C:12](=[O:13])[N-:14][N+:15]([CH3:16])=[C:17]([C:18](=[O:19])[O:20][CH3:21])[C:22](=[O:23])[O:24][CH3:25].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:17]([C:18](=[O:19])[O:20][CH3:21])([C:22](=[O:23])[O:24][CH3:25])[N:15]([CH3:16])[N:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,22.82224372056385,-15.571556465425086
4270,4884,[CH3:10][NH:11][C:12](=[O:13])[C:14]([C:15]#[N:16])=[N+:17]([CH3:18])[C-:19]([C:20]#[N:21])[C:22]#[N:23].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:15]#[N:16])[N:17]([CH3:18])[C:19]1([C:20]#[N:21])[C:22]#[N:23],water,298.15,17.477974207251066,-18.64467655624937
2708,3008,[CH3:14][C:15](=[O:16])[C-:17]([N+:18]#[C:19][c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:19]([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)=[N:18][C:17]2([C:15]([CH3:14])=[O:16])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,17.157339545448973,-53.041802052934685
3330,3778,[CH3:10][C:11](=[O:12])[N:13]=[NH+:14][N-:15][C:16]#[N:17].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:15]([C:16]#[N:17])[NH:14][N:13]1[C:11]([CH3:10])=[O:12],water,298.15,22.95059003027832,-7.851392339008501
1615,1785,[CH3:13][NH:14][C:15](=[O:16])[C-:17]([CH3:18])[NH+:19]=[C:20]([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2]1([CH3:3])[C:4]#[C:5][C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([CH3:3])[C:4]2=[C:5]([C:6]([F:7])([F:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([NH:14][CH3:13])=[O:16])([CH3:18])[NH:19][C:20]2([CH3:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,15.89199689326894,-37.910916272490574
3554,4052,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][c:12]1[nH+:13][c-:14]([C:15]#[N:16])[c:17](=[O:18])[o:19]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:14]1([C:15]#[N:16])[NH:13][C:12]2([CH3:11])[O:19][C:17]1=[O:18],water,298.15,25.37812442563041,3.1581218025249123
4080,4673,[CH2:1]=[CH2:2].[CH3:3][O:4][C:5](=[O:6])[C:7]([c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)=[N+:14]([CH3:15])[CH-:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH2:1]1[CH2:2][CH:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[N:14]([CH3:15])[C:7]1([C:5]([O:4][CH3:3])=[O:6])[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1,water,298.15,17.329251622887465,-31.34893320264611
449,491,[CH3:12][NH:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[NH-:19].[CH3:1][O:2][C:3]1([Cl:4])[C:5]#[C:6][CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]2=[C:6]([CH2:7][CH2:8][CH2:9][CH2:10][CH2:11]1)[NH:19][N:17]([CH3:18])[CH:16]2[C:14]([NH:13][CH3:12])=[O:15],water,298.15,14.486025572563436,-42.86978082025779
